US05435991
b) 4-Bromomethyl-8-methylthio-2,2,6,6-tetramethylbenz[1,2-d:4,5-d']bis(1,3)dioxole
4-Hydroxymethyl-8-methylthio-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']bis(1,3)dioxole is dissolved in pyridine. The solution is chilled and triphenylphosphine followed by carbontetrabromide are added the reaction is stirred for an appropriate time. Methanol is added and the product is isolated by a suitable method.

reactant | 4-Hydroxymethyl-8-methylthio-2,2,6,6-tetramethylbenzo[1,2-d:4,5-d']bis(1,3)dioxole | OCC1=C2C(OC(O2)(C)C)=C(C2=C1OC(O2)(C)C)SC | C14H18O5S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbontetrabromide | C(Br)(Br)(Br)Br | CBr4
reactant | Methanol | CO | CH4O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-Bromomethyl-8-methylthio-2,2,6,6-tetramethylbenz[1,2-d:4,5-d']bis(1,3)dioxole | BrCC1=C2C(OC(O2)(C)C)=C(C2=C1OC(O2)(C)C)SC | C14H17BrO4S
